US09403798B2
1-(6-Methyl-4-oxo-5-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-4,5-dihydro-1,3,5-triazin-2-yl)piperidin-4-yl methanesulfonate
To a dichloromethane solution (2.0 mL) of 4-(4-hydroxypiperidin-1-yl)-6-methyl-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one (374 mg, 1.00 mmol) synthesized in Reference Synthesis Example 348 and triethylamine (557 μL, 4.00 mmol), methanesulfonyl chloride (155 μL, 2.00 mmol) was added dropwise at 0° C. and the resultant mixture was stirred at room temperature for 1 hour. After the reaction, water was added to the reaction solution and extraction from the resultant mixture with dichloromethane was performed. The obtained organic layer was dried over anhydrous sodium sulfate and thereafter concentrated under reduced pressure to obtain the title compound (453 mg, yield 100%).

reactant | 4-(4-hydroxypiperidin-1-yl)-6-methyl-1-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-1,3,5-triazin-2(1H)-one | 1.00 mmol, 374 mg | OC1CCN(CC1)C1=NC(N(C(=N1)C)CC=1SC(=CC1)C(F)(F)F)=O | C15H17F3N4O2S
reactant | triethylamine | 4.00 mmol, 557 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.00 mmol, 155 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | water | O | H2O
solvent | dichloromethane | 2.0 mL | ClCCl | CH2Cl2
product | 1-(6-Methyl-4-oxo-5-{[5-(trifluoromethyl)thiophen-2-yl]methyl}-4,5-dihydro-1,3,5-triazin-2-yl)piperidin-4-yl methanesulfonate | 453 mg, yield 100% | CS(=O)(=O)OC1CCN(CC1)C=1N=C(N(C(N1)=O)CC=1SC(=CC1)C(F)(F)F)C | C16H19F3N4O4S2
